US09382234B2
To a solution of tert-butyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate (250 mg, 0.651 mmol) in methanol (1.0 mL) was added 6 N NaOH (2.1 mL, 13.03 mmol). The reaction was heated at 55° C. for 18 h. The reaction was cooled to RT and concentrated in vacuo. The residue was then suspended in water and acidified with 1N HCl solution, filtered, and dried to give 3-((1-(tert -butoxycarbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid (0.180 g, 0.487 mmol, 75% yield). 1H NMR (400 MHz, DMSO-d6) δ 1.41 (s, 9 H) 1.56 (m, J=12.47, 8.31, 4.14, 4.14 Hz, 2 H) 1.76-1.97 (m, 2 H) 2.23-2.35 (m, 3 H) 3.19-3.31 (m, 2 H) 3.48-3.63 (m, 2 H) 4.70 (dt, J=7.26, 3.82 Hz, 1 H) 7.31 (dd, J=11.37, 2.02 Hz, 2 H) 13.22 (br. s., 1 H). MS(ES) [M+H]+ 370.2.

reactant | tert-butyl 4-(5-chloro-3-(methoxycarbonyl)-2-methylphenoxy)piperidine-1-carboxylate | 0.651 mmol, 250 mg | ClC=1C=C(C(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)C(=O)OC | C19H26ClNO5
reactant | NaOH | 13.03 mmol, 6 N, 2.1 mL | [OH-].[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-((1-(tert -butoxycarbonyl)piperidin-4-yl)oxy)-5-chloro-2-methylbenzoic acid | 0.487 mmol, 0.180 g, 75% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C(=C(C(=O)O)C=C(C1)Cl)C | C18H24ClNO5
